US04360674
5-Bromo-2-(2-Chloroethyl)-1-methyl-1H-naphth[1,2-d]imidazole
A mixture of 80.3 g (0.286 mole) of 4-bromo-N-methyl-2-nitro-1-naphthylamine, prepared as described in the first part of Example 36, and 41 cc (0.426 mole) of 3-chloropropanoyl chloride is stirred for 2 hours at 60° C. and for a further 2 hours at 80° C. The excess of acyl chloride is distilled off at 40° C. under vacuum and the residue, taken up with methylene chloride, is washed first with a saturated NaHCO3 solution and then with water.

reactant | 4-bromo-N-methyl-2-nitro-1-naphthylamine | 0.286 mole, 80.3 g | BrC1=CC(=C(C2=CC=CC=C12)NC)[N+](=O)[O-] | C11H9BrN2O2
reactant | 3-chloropropanoyl chloride | 0.426 mole, 41 cc | ClCCC(=O)Cl | C3H4Cl2O
product | 5-Bromo-2-(2-Chloroethyl)-1-methyl-1H-naphth[1,2-d]imidazole | BrC1=CC2=C(N(C(=N2)CCCl)C)C2=CC=CC=C12 | C14H12BrClN2
